US04254134
N-(1,3,4,9-tetrahydro-7-methoxy-2H-carbazol-2-yl)acetamide (Compound 2i)
A mixture of 0.05 mol of N-(3-oxocyclohexyl)acetamide and 0.05 mol of 3-methoxyphenylhydrazine hydrochloride in 50 ml of glacial HOAc was stirred for 2 hr at room temperature and then refluxed for 2 hr. The cooled reaction mixture was poured into H2O and the product triturated until solid. Filtration, drying, and recrystallization from ethanol gave the title compound, mp 192°-193°.

reactant | N-(3-oxocyclohexyl)acetamide | 0.05 mol | O=C1CC(CCC1)NC(C)=O | C8H13NO2
reactant | 3-methoxyphenylhydrazine hydrochloride | 0.05 mol | Cl.COC=1C=C(C=CC1)NN
reactant | H2O | O | H2O
solvent | HOAc | 50 ml | CC(=O)O | C2H4O2
product | N-(1,3,4,9-tetrahydro-7-methoxy-2H-carbazol-2-yl)acetamide | COC1=CC=C2C=3CCC(CC3NC2=C1)NC(C)=O | C15H18N2O2
